US08470847B2
5.4: (±)-2-Amino-7-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-N-methyl-4-oxo-1-(pyridin-2-ylmethyl)-1,4-dihydro-1,8-naphthyridine-3-carboxamide hydrochloride
A suspension of 1 g of 2-amino-7-chloro-N-methyl-4-oxo-1-(pyridin-2-ylmethyl)-1,4-dihydro-1,8-naphthyridine-3-carboxamide (2.91 mmol) in a mixture of 20 ml of dimethylformamide and 5.7 ml of triethylamine is placed in an 80 ml microwave tube. This suspension is sparged with argon and then 0.498 g of (±)-1-methoxy-2-methyl-3-butyn-2-ol (4.36 mmol), 0.055 g of CuI (0.29 mmol) and 0.102 g of bis(triphenylphosphine)palladium(II)dichloride (0.15 mmol) are successively added.

reactant | 2-amino-7-chloro-N-methyl-4-oxo-1-(pyridin-2-ylmethyl)-1,4-dihydro-1,8-naphthyridine-3-carboxamide | 2.91 mmol, 1 g | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC1=NC=CC=C1 | C16H14ClN5O2
reactant | (±)-1-methoxy-2-methyl-3-butyn-2-ol | 4.36 mmol, 0.498 g | COCC(C#C)(O)C | C6H10O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5.7 ml | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.29 mmol, 0.055 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.15 mmol, 0.102 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (±)-2-Amino-7-(3-hydroxy-4-methoxy-3-methylbut-1-yn-1-yl)-N-methyl-4-oxo-1-(pyridin-2-ylmethyl)-1,4-dihydro-1,8-naphthyridine-3-carboxamide hydrochloride | Cl.NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)C#CC(COC)(C)O)CC1=NC=CC=C1 | InChI=1S/C22H23N5O4.ClH/c1-22(30,13-31-3)10-9-14-7-8-16-18(28)17(21(29)24-2)19(23)27(20(16)26-14)12-15-6-4-5-11-25-15;/h4-8,11,30H,12-13,23H2,1-3H3,(H,24,29);1H
